US04723016
The procedure of Example 1 was followed using ethyl perfluoropropionate (4.8 g, 25 mmol), potassium trimethylsilanolate (3.2 g, 25 mmol), and dry ether (150 mL). Potassium perfluoropropionate (4.7 g, 93% yield) was isolated as a white solid: 19F NMR (D2O) δ -79.5 (m, CF3, 3F), -117.5 (m, CF2, 2F). Anal. Calcd. for C3F5KO2 : C, 17.83; F, 47.00; K, 19.35. Found: C, 17.52; F, 46.83; K, 19.24.

reactant | ethyl perfluoropropionate | 25 mmol, 4.8 g | FC(C(=O)OCC)(C(F)(F)F)F | C5H5F5O2
reactant | potassium trimethylsilanolate | 25 mmol, 3.2 g | C[Si]([O-])(C)C.[K+]
solvent | ether | 150 mL | CCOCC | C4H10O
product | Potassium perfluoropropionate | 4.7 g, 93% yield | FC(C(=O)[O-])(C(F)(F)F)F.[K+] | InChI=1S/C3HF5O2.K/c4-2(5,1(9)10)3(6,7)8;/h(H,9,10);/q;+1/p-1
